US07427623B2
1(A) 2-Amino-3-cyano-4-(4-methoxyphenyl)furan
To a cooled solution of 2-hydroxy-4′-methoxyacetophenone (379 mg, 2.28 mmol) in DMF (0.75 ml) was added malononitrile (166 mg, 2.51 mmol) followed by diethylamine (0.1 ml, 0.97 mmol). The mixture was stirred at room temperature for 2 hours, and then poured into large amount of cold water. The precipitate was filtrated, washed with water, and dried under reduced pressure to give the intermediate of Example 1(A) (424 mg, 87%) as a brown solid. 1H NMR (400 MHz, CDCl3) ppm 3.83 (s, 3H), 4.73 (brs, 2H), 6.93 (m, 2H), 6.94 (s, 1H), 7.49 (m, 2H). LC/MS: m/z 215 (M+1)+.

reactant | 2-hydroxy-4′-methoxyacetophenone | 2.28 mmol, 379 mg | OCC(=O)C1=CC=C(C=C1)OC | C9H10O3
reactant | malononitrile | 2.51 mmol, 166 mg | C(CC#N)#N | C3H2N2
reactant | diethylamine | 0.97 mmol, 0.1 ml | C(C)NCC | C4H11N
reactant | water | O | H2O
solvent | DMF | 0.75 ml | CN(C)C=O | C3H7NO
product | 2-Amino-3-cyano-4-(4-methoxyphenyl)furan | 424 mg, 87% | NC=1OC=C(C1C#N)C1=CC=C(C=C1)OC | C12H10N2O2
